US08614206B2
To a solution of 5-azido-1-benzyl-5-methylazepan-4-ol (1.5 g, 5.76 mmol) in THF (12 mL) and water (4 mL) was added slowly a solution of trimethylphosphine (1 M in toluene, 28 mL, 28.9 mmol) and the reaction was stirred at 65° C. for 18 hr. The mixture was allowed to cool to room temperature and concentrated under reduced pressure. The residue was dissolved in 1 M HCl (30 mL) and extracted with EtOAc (2×25 mL). The aqueous layer was basified to pH14 with aqueous 6 M NaOH and extracted with DCM (3×30 mL). The combined organic layers were passed through a phase separation cartridge concentrated under reduced pressure. Purification via silica gel column chromatography (1-10% 7 M NH3 in MeOH/DCM) gave 5-amino-1-benzyl-5-methylazepan-4-ol as a viscous yellow oil (1.2 g, 89%). 1H NMR (400 MHz, CDCl3) δ 7.34-7.20 (m, 5H), 3.60-3.52 (m, 2H), 3.50-3.46 (m, 2H), 2.80-2.79 (m, 1H), 2.70-2.45 (m, 4H), 2.15-1.95 (m, 1H), 1.79-1.72 (m, 2H), 1.49-1.40 (m, 2H), 1.19 (s, 3H).

reactant | 5-azido-1-benzyl-5-methylazepan-4-ol | 5.76 mmol, 1.5 g | N(=[N+]=[N-])C1(C(CCN(CC1)CC1=CC=CC=C1)O)C | C14H20N4O
reactant | trimethylphosphine | 28.9 mmol, 1 M, 28 mL | CP(C)C | C3H9P
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 5-amino-1-benzyl-5-methylazepan-4-ol | 1.2 g, 89% | NC1(C(CCN(CC1)CC1=CC=CC=C1)O)C | C14H22N2O
